US06124452
m-Anisaldehyde (0.3 mL, 2.5 mmol), 3,4-difluoropyrrole (215 mg, 2.1 mmol), and 100 mL of dry CH2Cl2 were placed under N2 in a 250 mL round-bottom flask equipped with a magnetic stir bar. The reaction was stirred while BF3 etherate (0.9 mL, 7.1 mmol) was added via syringe. To monitor the reaction, aliquots were periodically removed from the reaction vessel, oxidized with DDQ, neutralized with pyridine, and chromatographed by silica gel TLC using CHCl3 as eluent. After 30 minutes, DDQ (1 g) and pyridine (3 mL) were added. The reaction was stirred for 12 hours and filtered through a short silica gel column using CH3Cl3 as eluent, and the solvent was evaporated. A rough purification was done using a silica gel column with CHCl3 as eluent. The solvent was removed, and the product was further purified on silica gel using chloroform/hexane (1:4). The pure fractions were combined and concentrated to afford 88.8 mg of pure 2,3,7,8,12,13,17,18-octafluoro-5,10,15,20-tetrakis(3-methoxyphenyl)porphyrin in 20% yield. The product is characterized by the following data: 1H NMR (360 MHz, CDCl3) δ 7.65 (t, 12H), 7.30 (m, 4H), 4.02 (s, 12H), -4.14 (s, 2H); 19F δ (500 MHz, CDCl3, -50° C.) δ -140.9 (s, 4F), -146.0 (s, 4F); UV-vis (CH2Cl2) 406 (5.31), 500 (4.22), 533 (3.67), 581 (3.57), 636 (3.56); low-resolution FAB MS 878 (calcd 878). Anal. Calcd for C48H30F8N4O4 : C, 65.61; H, 3.44; N, 6.38. Found: C, 64.49-H, 3.46; N, 5.61.

reactant | m-Anisaldehyde | 2.5 mmol, 0.3 mL | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | 3,4-difluoropyrrole | 2.1 mmol, 215 mg | FC1=CNC=C1F | C4H3F2N
reactant | BF3 | 7.1 mmol, 0.9 mL | B(F)(F)F | BF3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,3,7,8,12,13,17,18-octafluoro-5,10,15,20-tetrakis(3-methoxyphenyl)porphyrin | 88.8 mg, 20% yield | FC1=C2NC(=C1F)C(=C1C(=C(C(=N1)C(=C1C(=C(C(N1)=C(C=1C(=C(C(N1)=C2C2=CC(=CC=C2)OC)F)F)C2=CC(=CC=C2)OC)F)F)C2=CC(=CC=C2)OC)F)F)C2=CC(=CC=C2)OC | C48H30F8N4O4
